US07582769B2
Prepared according to the procedure for the synthesis of {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid using 2-(trans-4-hydroxy-cyclohexyl)-isoindole-1,3-dione, 3-bromo-2-methylpropene cycloheptanone and 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-acetic acid ethyl ester. The intermediate cyclohexyl-[trans-4-(2-methyl-allyloxy)-cyclohexyl]-amine was hydrogenated using the following procedure: Cyclo-hexyl-[4-(2-methyl-allyloxy)-cyclohexyl]-amine (540 mg, 2.15 mmol) was dissolved in 10 mL AcOH and the setup was flushed with N2 before 50 mg Pd/C was added. A balloon was charged with N2 and connected to the setup. The reaction mixture was stirred for three days at room temperature before the Pd was filtered off using a pad of celite. The filtrate was poured on 1 N NaOH (pH>12) and the mixture was extracted 3× with diethylether (50 mL), and dried (MgSO4) to give cyclohexyl-(trans-4-isobutoxy-cyclohexyl)-amine which was trans-formed to the title compound according to the procedure for the synthesis of {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid.

reactant | {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)OC | C18H27N3O4S2
reactant | 2-(trans-4-hydroxy-cyclohexyl)-isoindole-1,3-dione | O[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
reactant | 3-bromo-2-methylpropene cycloheptanone | C1(CCCCCC1)=O.BrCC(=C)C
reactant | 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-acetic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
reactant | cyclohexyl-[trans-4-(2-methyl-allyloxy)-cyclohexyl]-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)OCC(=C)C | C16H29NO
reactant | Cyclo-hexyl-[4-(2-methyl-allyloxy)-cyclohexyl]-amine | 2.15 mmol, 540 mg | C1(CCCCC1)NC1CCC(CC1)OCC(=C)C | C16H29NO
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | cyclohexyl-(trans-4-isobutoxy-cyclohexyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)OCC(C)C | C16H31NO
